US07767702B2
5-Chloro-N-(3-{[3-fluoro-4-(3-oxo-4-morpholinyl)phenyl]amino}-2-hydroxypropyl)-2-thiophenecarboxamide
800 mg (3.8 mmol) of 4-(4-amino-2-fluorophenyl)-3-morpholinone and 700 mg (3.22 mmol) of 5-chloro-N-(2-oxiranylmethyl)-2-thiophenecarboxamide are heated in 15 ml of ethanol and 1 ml of water under reflux for 6 hours. The mixture is evaporated in vacuo, the crystals which have separated out after treatment with ethyl acetate are filtered off with suction, and chromatography of the mother liquor results in 276 mg (17% of theory) of the target compound.

reactant | 4-(4-amino-2-fluorophenyl)-3-morpholinone | 3.8 mmol, 800 mg | NC1=CC(=C(C=C1)N1C(COCC1)=O)F | C10H11FN2O2
reactant | 5-chloro-N-(2-oxiranylmethyl)-2-thiophenecarboxamide | 3.22 mmol, 700 mg | ClC1=CC=C(S1)C(=O)NCC1OC1 | C8H8ClNO2S
reactant | water | 1 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-Chloro-N-(3-{[3-fluoro-4-(3-oxo-4-morpholinyl)phenyl]amino}-2-hydroxypropyl)-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NCC(CNC1=CC(=C(C=C1)N1C(COCC1)=O)F)O | C18H19ClFN3O4S
